US09035059B2
N-(2,4-Dimethoxybenzyl)-4-fluoroaniline
To a solution of 4-fluoroaniline (3.85 g, 34.7 mmol) in tetrahydrofuran (100 mL) were added 2,4-dimethoxybenzaldehyde (6.34 g, 38.2 mmol) and acetic acid (11.9 mL, 208 mmol). After stirring at room temperature for 15 min, sodium triacetoxyborohydride (22.1 g, 104 mmol) was added thereto and the mixture was stirred at the same temperature for 15 hr. The mixture was concentrated under reduced pressure, diluted with ethyl acetate, and then washed with 2 mol/L aqueous sodium hydroxide solution and brine successively. The organic layer was dried over anhydrous sodium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to afford the title compound as a pale yellow solid (7.37 g).

reactant | 4-fluoroaniline | 34.7 mmol, 3.85 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2,4-dimethoxybenzaldehyde | 38.2 mmol, 6.34 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | acetic acid | 208 mmol, 11.9 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 104 mmol, 22.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(2,4-Dimethoxybenzyl)-4-fluoroaniline | 7.37 g | COC1=C(CNC2=CC=C(C=C2)F)C=CC(=C1)OC | C15H16FNO2
